* BACKLIGHT — субсхема из нетлиста KiCad + YAML
.subckt BACKLIGHT GND ILLUM_IN_RAW NET_BTN_CH1_C NET_PTR_CH1_A NET_SCALE_CH2_C NET_SCALE_CH3_C NET_SCALE_CH5_C NET_SCALE_CH6_C NET_SCALE_CH7_C NET_SCALE_CH8_A NET_SCALE_CH8_C
  * LED101: LED (Белый SMD 1206) — не моделируется
  * LED102: LED (Белый SMD 1206) — не моделируется
  * LED103: LED (Белый SMD 1206) — не моделируется
  * LED104: LED (Белый SMD 1206) — не моделируется
  * LED105: LED (Белый SMD 1206) — не моделируется
  * LED106: LED (Белый SMD 1206) — не моделируется
  * LED11: LED (Белый SMD 0805) — не моделируется
  * LED12: LED (Белый SMD 0805) — не моделируется
  * LED13: LED (Белый SMD 0805) — не моделируется
  * LED201: LED (Белый SMD 0603) — не моделируется
  * LED202: LED (Белый SMD 0603) — не моделируется
  * LED203: LED (Белый SMD 0603) — не моделируется
  * LED204: LED (Белый SMD 0603) — не моделируется
  * LED205: LED (Белый SMD 0603) — не моделируется
  * LED206: LED (Белый SMD 0603) — не моделируется
  * LED207: LED (Белый SMD 0603) — не моделируется
  * LED208: LED (Белый SMD 0603) — не моделируется
  * LED209: LED (Белый SMD 0603) — не моделируется
  * LED21: LED (Белый SMD 0805) — не моделируется
  * LED210: LED (Белый SMD 0603) — не моделируется
  * LED211: LED (Белый SMD 0603) — не моделируется
  * LED212: LED (Белый SMD 0603) — не моделируется
  * LED22: LED (Белый SMD 0805) — не моделируется
  * LED23: LED (Белый SMD 0805) — не моделируется
  * LED31: LED (Белый SMD 0805) — не моделируется
  * LED32: LED (Белый SMD 0805) — не моделируется
  * LED33: LED (Белый SMD 0805) — не моделируется
  * LED41: LED (Белый SMD 0805) — не моделируется
  * LED42: LED (Белый SMD 0805) — не моделируется
  * LED43: LED (Белый SMD 0805) — не моделируется
  * LED51: LED (Белый SMD 0805) — не моделируется
  * LED52: LED (Белый SMD 0805) — не моделируется
  * LED53: LED (Белый SMD 0805) — не моделируется
  * LED61: LED (Белый SMD 0805) — не моделируется
  * LED62: LED (Белый SMD 0805) — не моделируется
  * LED63: LED (Белый SMD 0805) — не моделируется
  * LED71: LED (Белый SMD 0805) — не моделируется
  * LED72: LED (Белый SMD 0805) — не моделируется
  * LED73: LED (Белый SMD 0805) — не моделируется
  * LED81: LED (Белый SMD 0805) — не моделируется
  * LED82: LED (Белый SMD 0805) — не моделируется
  * LED83: LED (Белый SMD 0805) — не моделируется
  R1 ILLUM_IN_RAW Net-(LED11-K) 130
  R10 ILLUM_IN_RAW Net-(LED104-K) 130
  R11 ILLUM_IN_RAW NET_PTR_CH1_A 130
  R12 ILLUM_IN_RAW Net-(LED204-K) 130
  R13 ILLUM_IN_RAW Net-(LED207-K) 130
  R14 ILLUM_IN_RAW Net-(LED210-K) 130
  R2 ILLUM_IN_RAW Net-(LED21-K) 130
  R3 ILLUM_IN_RAW Net-(LED31-K) 130
  R4 ILLUM_IN_RAW Net-(LED41-K) 130
  R5 ILLUM_IN_RAW Net-(LED51-K) 130
  R6 ILLUM_IN_RAW ILLUM_IN_RAW 130
  R7 ILLUM_IN_RAW ILLUM_IN_RAW 130
  R8 ILLUM_IN_RAW NET_SCALE_CH8_A 130
  R9 ILLUM_IN_RAW Net-(LED101-K) 130
.ends BACKLIGHT
